US08222274B2
A 15.91 g portion of ethyl 5-tert-butyl-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate was dissolved in a mixture of 200 ml of ethanol and 20 ml of tetrahydrofuran at 80° C., and 96.01 ml of a 5 M sodium hydroxide aqueous solution was added thereto, followed by overnight stirring at the same temperature and then further stirring at 100° C. for 6 hours. The reaction liquid was concentrated to about 150 ml, and, under ice-cooling, 6 M hydrochloric acid was added thereto until pH became 1. The resulting solid was collected by filtration and washed with water to obtain 14.04 g of 5-tert-butyl-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylic acid as a light brown solid.

reactant | ethyl 5-tert-butyl-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylate | C(C)(C)(C)C1=CC(=C(N1CCC1=CC=C(C=C1)F)C)C(=O)OCC | C20H26FNO2
reactant | sodium hydroxide | 5 M | [OH-].[Na+]
solvent | ethanol | 200 ml | C(C)O | C2H6O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 5-tert-butyl-1-[2-(4-fluorophenyl)ethyl]-2-methyl-1H-pyrrole-3-carboxylic acid | 14.04 g | C(C)(C)(C)C1=CC(=C(N1CCC1=CC=C(C=C1)F)C)C(=O)O | C18H22FNO2
